US05700809
1-(Pyridin-4-yl)-2-(furan-2-yl)ethane
A solution of 1-(pyridin-4-yl)-2-(furan-2-yl)ethene (8 g, 46.8 mmol) in methanol (200 ml) was treated with ammonium formate (14.7 g, 234.0 mmol). 10% Palladium on charcoal catalyst (400 mg, 5% (w/w)) was added and the mixture was stirred at reflux for five hours. The catalyst was filtered off and the solvent evaporated. The residue was partitioned between dichloromethane and water. The organic layer was separated, dried (MgSO4) and evaporated to give a beige oil. This material was chromatographed on silica gel with a gradient of ethyl acetate in hexane (50%-100%) as eluant to afford the title compound as a colourless oil (2.5 g, 31%); δH (DMSO-d6) 2.94-3.06 (4H, m, 2×CH2), 6.06-6.12 (1H, m, furanyl H), 6.32-6.38 (1H, m, furanyl H), 7.20-7.28 (2H, m, pyridinyl H), 7.50-7.56 (1H, m, furanyl H), and 8.40-8.50 (2H, m, pyridinyl H).

reactant | 1-(pyridin-4-yl)-2-(furan-2-yl)ethene | 46.8 mmol, 8 g | N1=CC=C(C=C1)C=CC=1OC=CC1 | C11H9NO
reactant | ammonium formate | 234.0 mmol, 14.7 g | C(=O)[O-].[NH4+]
solvent | methanol | 200 ml | CO | CH4O
catalyst | Palladium on charcoal | 400 mg | [Pd] | Pd
product | 1-(Pyridin-4-yl)-2-(furan-2-yl)ethane | 2.5 g, 31% | N1=CC=C(C=C1)CCC=1OC=CC1 | C11H11NO
